US07576115B2
2) Synthesis of 4-[(2-{1-[1-benzyl-5-(4-t-butylphenyl)-4-hydroxy-1H-pyrazol-3-yl]ethylidene}hydrazino)carbonyl]benzoic acid
To methyl 4-[(2-{1-[1-benzyl-5-(4-t-butylphenyl)-4-hydroxy-1H-pyrazol-3-yl]ethylidene}hydrazino)carbonyl]benzoate (0.045 mmol, 23.5 mg), methanol was added, and 1 M aqueous sodium hydroxide (0.224 mmol, 0.224 mL) was added at room temperature. After 30 minutes of stirring at room temperature and 1.5 hours of stirring at 60° C., the reactor was cooled to 0° C., and 1 M hydrochloric acid (0.224 mmol, 0.224 mL) and water were added. The precipitated solid was recovered by filtration, washed with water, dried by means of a vacuum pump and purified by silica gel thin layer chromatography (chloroform/methanol=10/1) to give the desired product as a yellow solid (15.8 mg, yield 69%).

reactant | methyl 4-[(2-{1-[1-benzyl-5-(4-t-butylphenyl)-4-hydroxy-1H-pyrazol-3-yl]ethylidene}hydrazino)carbonyl]benzoate | 0.045 mmol, 23.5 mg | C(C1=CC=CC=C1)N1N=C(C(=C1C1=CC=C(C=C1)C(C)(C)C)O)C(C)=NNC(=O)C1=CC=C(C(=O)OC)C=C1 | C31H32N4O4
reactant | methanol | CO | CH4O
reactant | sodium hydroxide | 0.224 mmol, 1 M, 0.224 mL | [OH-].[Na+]
reactant | hydrochloric acid | 0.224 mmol, 1 M, 0.224 mL | Cl | ClH
solvent | water | O | H2O
product | 4-[(2-{1-[1-benzyl-5-(4-t-butylphenyl)-4-hydroxy-1H-pyrazol-3-yl]ethylidene}hydrazino)carbonyl]benzoic acid | 15.8 mg, yield 69% | C(C1=CC=CC=C1)N1N=C(C(=C1C1=CC=C(C=C1)C(C)(C)C)O)C(C)=NNC(=O)C1=CC=C(C(=O)O)C=C1 | C30H30N4O4
